US07141583B2
(5R)-3-(4-((3R)-3-((2S)-2,3-Dihydroxypropyloxycarbonylamino)pyrrolidin-1-yl)-3-fluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)oxazolidin-2-one
(5R)-3-(4-((3R)-3-((4S)-2,2-Dimethyl-1,3-dioxolan-4-ylmethoxycarbonylamino)pyrrolidin-1-yl)-3-fluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)oxazolidin-2-one (240 mg, 0.48 mM) in tetrahydrofuran (5 ml) was treated with hydrochloric acid (2M, 2 ml) and stirred at ambient temperature for 18 hours. Solid potassium carbonate was added to neutralise, and the mixture filtered, and the filtrate evaporated to dryness. The residue was purified by chromatography on a 10 g silica Mega Bond Elut® column, eluting with a gradient increasing in polarity from 0 to 10% methanol in dichloromethane. Relevant fractions were combined and evaporated to give the desired product (170 mg).

reactant | (5R)-3-(4-((3R)-3-((4S)-2,2-Dimethyl-1,3-dioxolan-4-ylmethoxycarbonylamino)pyrrolidin-1-yl)-3-fluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)oxazolidin-2-one | 0.48 mM, 240 mg | CC1(OC[C@H](O1)COC(=O)N[C@H]1CN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN1N=NC=C1)=O)F)C | C23H29FN6O6
reactant | hydrochloric acid | 2M, 2 ml | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | (5R)-3-(4-((3R)-3-((2S)-2,3-Dihydroxypropyloxycarbonylamino)pyrrolidin-1-yl)-3-fluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)oxazolidin-2-one | 170 mg | O[C@H](COC(=O)N[C@H]1CN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN1N=NC=C1)=O)F)CO | C20H25FN6O6
